US05171753
A mixture of trans-stilbene oxide (2.44 g, 0.0125 mol) and 2-amino-1-phenylethanol (5.12 g, 0.0374 mol) was heated on a steam bath for 3 hours and allowed to stand at ambient temperature for 16 hours. Trituration with methanol-isopropyl ether gave a white solid (1.12 g, 77% yield). The solid was recrystallized from methanol-water to obtain 0.8 g of the product, mp 162°-163° C.

reactant | trans-stilbene oxide | 0.0125 mol, 2.44 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | 2-amino-1-phenylethanol | 0.0374 mol, 5.12 g | NCC(O)C1=CC=CC=C1 | C8H11NO
product | methanol isopropyl ether | CO.C(C)(C)OC(C)C | InChI=1S/C6H14O.CH4O/c1-5(2)7-6(3)4;1-2/h5-6H,1-4H3;2H,1H3
